US07547696B2
a.) 2-Amino-3-cyano-4-[2-furylmethylamino]-6-dimethylaminoquinoline
3 g of 2-amino-3-cyano-4-chloro-6-dimethylaminoquinoline and 6 mL of furfurylamine are stirred at 125° C. for 3 hours. The reaction mixture is poured onto 30 mL of water. The precipitated material is filtered off, washed with 20 mL of water. After drying 2.05 g of the title compound is obtained, m.p.: 235° C.

reactant | 2-amino-3-cyano-4-chloro-6-dimethylaminoquinoline | 3 g | NC1=NC2=CC=C(C=C2C(=C1C#N)Cl)N(C)C | C12H11ClN4
reactant | furfurylamine | 6 mL | C(C1=CC=CO1)N | C5H7NO
solvent | water | 30 mL | O | H2O
product | 2-Amino-3-cyano-4-[2-furylmethylamino]-6-dimethylaminoquinoline | NC1=NC2=CC=C(C=C2C(=C1C#N)NCC=1OC=CC1)N(C)C | C17H17N5O
